US03970693
A mixture of 42 g. (0.20 mole) of 3-dimethylamino-4'-fluoro-2-methylpropiophenone and 100 ml. of concentrated sulfuric acid is warmed to 90°C over 1 hour and stirred at 90°C for 2 hours. The reaction is cooled and quenched in ice and the product extracted into toluene. The toluene layer is washed with aqueous sodium hydroxide and water and concentrated in vacuo to give 5-fluoro-2-methyl-1-indanone.

reactant | 3-dimethylamino-4'-fluoro-2-methylpropiophenone | 0.20 mole | CN(CC(C(=O)C1=CC=C(C=C1)F)C)C | C12H16FNO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-fluoro-2-methyl-1-indanone | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
